US08445684B2
3-[3-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]phenyl]-1-propanol
3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine (310 mg, 726 μmol), 3-(3-iodophenyl)-1-propanol (190 mg, 726 μmol), and anhydrous DMF (2.5 mL) were placed in a 50 mL round bottom flask with magnetic stirrer. To this mixture were added rapidly CsF (221 mg, 1.45 mmol, 2.0 equiv.), CuI (14 mg, 73 μmol, 0.1 equiv.), and tetrakis(triphenylphosphine)palladium(0) (42 mg, 36 μmol, 0.05 equiv.). The flask was fitted with a three-way stopcock with nitrogen balloon, and the atmosphere was exchanged. The reaction mixture was heated at 50° C. for 250 min. After this period of time, the TLC of an evaporated aliquot (SiO2, EtOAc) showed the absence of the aryl iodide and the formation of a new, polar spot. The bulk of solvent was pumped off at room temperature with an oil pump, and EtOAc was added to the residue, resulting in a solution and a precipitate. Both were loaded on a silica gel column (24×2.5 cm), which was eluted with EtOAc. Product-containing fractions were combined, evaporated, and evaporated with acetonitrile. The residue was taken up in acetonitrile and the solution was filtered from a small amount of wax over a cotton plug. The solution was again evaporated and the residue was taken up in DMSO (1 mL). Further purification was achieved by preparative HPLC in two portions on a Supelco Discovery C18 column (250×21.2 mm, 5 μm particle size; UV detection at 270 nm; flow 12.5 mL/min; gradient from 20 to 100% of acetonitrile in water within 50 min). The coupling product eluted as the main peak at tR approx. 25-27 min. The eluate was partially evaporated to remove acetonitrile, and the product was extracted from the residue with CH2Cl2 (3×10 mL). After drying over MgSO4, the combined organic phases were evaporated and dried (45° C./14 torr) to obtain 241 mg (83%) of the product as a glass. 1H NMR (CDCl3, TMS, 250 MHz) δ 8.45 (d, 1H, J=1.7 Hz), 8.31 (d, 1H, J=2.7 Hz), 7.46-7.34 (m, 4H), 7.29-7.22 (m, 1H), 4.55 (m, 1H), 4.40 (m, 1H), 4.21 (dd, 1H, J=2.9, 10.0 Hz), 3.92 (m, 2H), 3.72 (t, 2H, J=6.4 Hz), 2.80 (m, 2H), 2.47-2.24 (m, 2H), 2.21 (s, 1H, OH), 2.02-1.88 (m, 2H), 1.40 (s, 9H). 13C NMR (CDCl3, 62.5 MHz) δ 156.2, 155.2, 142.8, 140.8, 137.6, 137.5, 136.5 (br), 129.0, 128.4, 127.4, 124.8, 119.9, 79.7, 68.8, 61.9, 60.1, 47.1 (br), 34.2, 32.0, 28.3, 19.1. MS (EI) m/z 398 (M+, 4.1%), 243 (17%), 242 (34%), 100 (29%), 57 (100%), 56 (95%).

reactant | 3-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-5-(trimethylstannyl)pyridine | 726 μmol, 310 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=NC=C(C1)[Sn](C)(C)C
reactant | 3-(3-iodophenyl)-1-propanol | 726 μmol, 190 mg | IC=1C=C(C=CC1)CCCO | C9H11IO
reactant | DMF | 2.5 mL | CN(C)C=O | C3H7NO
reactant | CsF | 1.45 mmol, 221 mg, 2.0 equiv. | [F-].[Cs+]
catalyst | CuI | 73 μmol, 14 mg, 0.1 equiv. | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 36 μmol, 42 mg, 0.05 equiv. | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-[3-[5-[[1-(tert-Butoxycarbonyl)-2(S)-azetidinyl]methoxy]-3-pyridyl]phenyl]-1-propanol | 241 mg, 83% | C(C)(C)(C)OC(=O)N1[C@@H](CC1)COC=1C=C(C=NC1)C=1C=C(C=CC1)CCCO | C23H30N2O4
